US08258097B2
2-[(S)-3-(4-Benzyloxy-3-ethylcarbamoyloxy-phenyl)-2-tert-butoxycarbony lamino-propionylamino]-2-methyl-propionic acid methyl ester (380 mg) was dissolved in 4M HCl-dioxane (10 ml) and stirred at room temperature for 1 hour. The solution was evaporated to dryness and the resulting gum was redissolved on methanol (10 ml) containing 5% Pd—C (60 mg). The mixture was stirred under an atmosphere of hydrogen for 2 hours. The catalyst was removed by filtration and the filtrate evaporated to dryness giving a gum. Repeated trituration with ether gave (S)-2-(3-ethylcarbamoyloxy-4-hydroxy-phenyl)-1-(1-methoxycarbonyl-1-methyl-ethylcarbamoyl)-ethyl-ammonium chloride as a white solid, 240 mg; NMR (500 MHz, d6 DMSO) 1.07 (ca 3H, t J 7), 1.32 (3H, s), 1.38 (3H, s), 2.85 (1H, dd J 14, 7), 2.98 (1H, dd J 14, 5), 3.05-3.09 (2H, m), 3.58 (3H, s), 3.91 (1H, br t), 6.83 (1H, d J 8), 6.91 (1H, dd J 8, 2), 6.94 (1H, d J 2), 7.55 (1H, br t), 8.15 (3H, br s exch D2O), 8.82 (1H, exch D2O), 9.51 (1H, s, exch D2O); HPLC/MS retention time 4.29 min, m/z 368 (MH+).

reactant | 2-[(S)-3-(4-Benzyloxy-3-ethylcarbamoyloxy-phenyl)-2-tert-butoxycarbony lamino-propionylamino]-2-methyl-propionic acid methyl ester | 380 mg | COC(C(C)(C)NC([C@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC(NCC)=O)NC(=O)OC(C)(C)C)=O)=O | C29H39N3O8
reactant | ether | CCOCC | C4H10O
reactant | HCl dioxane | 4M, 10 ml | Cl.O1CCOCC1
product | (S)-2-(3-ethylcarbamoyloxy-4-hydroxy-phenyl)-1-(1-methoxycarbonyl-1-methyl-ethylcarbamoyl)-ethyl-ammonium chloride | [Cl-].C(C)NC(=O)OC=1C=C(C=CC1O)C[C@@H](C(NC(C)(C)C(=O)OC)=O)[NH3+] | InChI=1S/C17H25N3O6.ClH/c1-5-19-16(24)26-13-9-10(6-7-12(13)21)8-11(18)14(22)20-17(2,3)15(23)25-4;/h6-7,9,11,21H,5,8,18H2,1-4H3,(H,19,24)(H,20,22);1H/t11-;/m0./s1
